US05504082
4-(2-Chloroethylthio)-2,3-dimethylpyridine-N-oxide (6 g) was dissolved in a mixed solution of dimethylformamide-toluene (1:1) and thereto were added potassium carbonate (4.3 g), potassium iodide (4.4 g) and morpholine (1.9 ml). The mixture was reacted at 50°-55° C. for 12 hours. After the completion of tile reaction, inorganic matters were filtered off and the solvent was distilled away. Water was added to the residue and the mixture was extracted with chloroform. After drying over anhydrous magnesium sulfate, the chloroform was distilled away and the obtained residue was purified by silica gel column chromatography to give 3.4 g of 2,3-dimethyl-4-(2-morpholinoethylthio)pyridine-N-oxide.

reactant | 4-(2-Chloroethylthio)-2,3-dimethylpyridine-N-oxide | 6 g | ClCCSC1=C(C(=[N+](C=C1)[O-])C)C | C9H12ClNOS
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4.4 g | [I-].[K+]
reactant | morpholine | 1.9 ml | N1CCOCC1 | C4H9NO
solvent | dimethylformamide toluene | CN(C=O)C.C1(=CC=CC=C1)C
product | 2,3-dimethyl-4-(2-morpholinoethylthio)pyridine-N-oxide | 3.4 g | CC1=[N+](C=CC(=C1C)SCCN1CCOCC1)[O-] | C13H20N2O2S
